US08809342B2
5-(4-(trifluoromethyl)phenyl)pyrazin-2-amine
A 100 mL round bottom flask was charged with 2-amino-5-iodopyrimidine (3.66 g, 21.1 mmol), (4-(trifluoromethyl)phenyl)boronic acid (4.00 g, 21.1 mmol) and MeCN (84 mL). Stirred 15 minutes at room temperature until a nice clear solution is obtained. The resulting solution is then treated with 1,1′-Bis(diphenylphosphino)ferrocene-palladium(11)dichloride dichloromethane complex (508 mg, 695 μmol) was added followed by the sodium carbonate 1M aq. (52.7 mL, 52.7 mmol). Reaction refluxed for 2 hours. Reaction cooled down to room temperature and dissolved with ammonium chloride solution (aq. sat.). Aqueous layer extracted with ethyl acetate (3×). Combined organic layers washed with brine (1×), dried over sodium sulfate, filtered and concentrated to give the crude material. Purification by silica gel flash chromatography (Ethyl Acetate/DCM) provide the title compound as a light yellow solid (4.4 g, 87%). 1H NMR (400 MHz, DMSO-d6) δ 6.76 (s, 2 H) 7.76 (d, J=8.41 Hz, 2 H) 7.99 (d, J=1.57 Hz, 1 H) 8.14 (d, J=8.22 Hz, 2 H) 8.62 (d, J=1.37 Hz, 1 H). MS (M+1): 240.2.

reactant | 2-amino-5-iodopyrimidine | 21.1 mmol, 3.66 g | NC1=NC=C(C=N1)I | C4H4IN3
reactant | (4-(trifluoromethyl)phenyl)boronic acid | 21.1 mmol, 4.00 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 1M | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | MeCN | 84 mL | CC#N | C2H3N
product | 5-(4-(trifluoromethyl)phenyl)pyrazin-2-amine | 4.4 g, 87% | FC(C1=CC=C(C=C1)C=1N=CC(=NC1)N)(F)F | C11H8F3N3
